US05017212
6-Chloro-2,3-dihydro-imidazo[2,1-b]thiazole-5-sulfonamide-1-oxide
To a suspension of 2.0 g of 6-chloro-2,3-dihydroimidazo[2,1-b]thiazole-5-sulfonamide in 20 ml of acetic acid is add 2.2 g of 30% aqueous hydrogen peroxide, followed by stirring for 30 minutes at room temperature and further for 4 hours at 35°-45° C. Stirring is further maintained for 8 hours at room temperature, and the precipitated crystals are collected by filtration, washed with water and then dried to give 1.7 g of the title compound as colorless crystals. mp. 215°-217° C. (decomp.)

reactant | 6-chloro-2,3-dihydroimidazo[2,1-b]thiazole-5-sulfonamide | 2.0 g | ClC=1N=C2SCCN2C1S(=O)(=O)N | C5H6ClN3O2S2
reactant | hydrogen peroxide | 2.2 g | OO | H2O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-Chloro-2,3-dihydro-imidazo[2,1-b]thiazole-5-sulfonamide-1-oxide | 1.7 g | ClC=1N=C2S(CCN2C1S(=O)(=O)N)=O | C5H6ClN3O3S2
